US08455665B2
(S)-3-[(R)-1-(4-Chloro-2-methylphenoxy)-2-methylsulfanylethyl]pyrrolidine
(S)-3-((R)-1-Hydroxy-2-methylsulfanylethyl)pyrrolidine-1-carboxylic acid t-butyl ester (20 mg, 80 μmol) was dissolved in DMF (367 μL). NaH (3.7 mg, 153 μmol) was added and the mixture was stirred at room temperature for 15 minutes. 5-Chloro-2-fluorotoluene (33.2 mg mg, 230 tμmol) was added and the mixture was stirred at 100° C. for 1 hour. The mixture was cooled to room temperature, concentrated then dissolved in 1.2M HCl in EtOH (2.2 mL, 2.7 mmol) and stirred overnight at room temperature. The product was concentrated and purified by preparative HPLC to yield the title compound as a mono-TFA salt (0.6 mg, purity 85%). MS m/z: [M+H]+ calcd for C14H20ClNOS, 286.10. found 286.0.

reactant | (S)-3-((R)-1-Hydroxy-2-methylsulfanylethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 80 μmol, 20 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CSC)O | C12H23NO3S
reactant | NaH | 153 μmol, 3.7 mg | [H-].[Na+]
reactant | 5-Chloro-2-fluorotoluene | 33.2 mg | ClC=1C=CC(=C(C1)C)F | C7H6ClF
reactant | EtOH | 2.7 mmol, 2.2 mL | CCO | C2H6O
solvent | DMF | 367 μL | CN(C)C=O | C3H7NO
solvent | HCl | 1.2M | Cl | ClH
product | (S)-3-[(R)-1-(4-Chloro-2-methylphenoxy)-2-methylsulfanylethyl]pyrrolidine | ClC1=CC(=C(O[C@@H](CSC)[C@@H]2CNCC2)C=C1)C | C14H20ClNOS
